US04002746
13β-Propyl-17β-benzyloxy-gon-4-en-3-one
Esterify 13β-propyl-17β-hydroxy-gon-4-en-3-one (2.5 g.) with benzoyl chloride (2.0 g.). Purify the product by chromatography on Florex and recrystallize from ethyl acetate to obtain the title compound, m.p. 198°-200°; ultraviolet absorption peak at 240 mμ (ε25,000); infrared absorption peaks at 5.84, 6.00 μ.

reactant | 13β-propyl-17β-hydroxy-gon-4-en-3-one | 2.5 g | C(CC)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)O | C20H30O2
reactant | benzoyl chloride | 2.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 13β-Propyl-17β-benzyloxy-gon-4-en-3-one | C(CC)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)OCC2=CC=CC=C2 | C27H36O2
